US07179823B1
Catalytic hydrogenation of a mixture of ethyl(E)-3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propenoate (1.32 g), 5% palladium-carbon (1.0 g), tetrahydrofuran (40 ml) and ethanol (40 ml) was conducted at ordinary temperature and ordinary pressure. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was dissolved in a mixed solution of tetrahydrofuran (10 ml) and ethanol (10 ml), then 1N aqueous sodium hydroxide solution (10 ml) was added to the solution, which was stirred at room temperature for 2 hours. The reaction mixture was poured into water, then neutralized with 1N hydrochloric acid (10 ml), which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The colorless crystals obtained were collected by filtration to yield 3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionic acid (900 mg, yield: 72%). This was recrystallized from acetone-ethyl acetate. Melting point: 110–111° C.

reactant | ethyl(E)-3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propenoate | 1.32 g | CN(C1=NC=CC=C1)CCOC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)/C=C/C(=O)OCC)C=C1 | C30H31N3O3
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionic acid | 900 mg, yield: 72% | CN(C1=NC=CC=C1)CCOC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)O)C=C1 | C28H29N3O3
